US07368578B2
A mixture of ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (0.68 g), {4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazol-2-yl}methyl benzoate hydrochloride (0.73 g), potassium carbonate (0.45 g) and N,N-dimethylformamide (15 mL) was stirred at 90° C. for 10 min. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (10:90-30:70, v/v) to give {4-[(E)-2-(3-{[4-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazol-2-yl}methyl benzoate as colorless crystals (0.55 g, yield 44%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 116-117° C.

reactant | ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 0.68 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
reactant | {4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazol-2-yl}methyl benzoate hydrochloride | 0.73 g | Cl.C(C1=CC=CC=C1)(=O)OCC=1SC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)O
reactant | potassium carbonate | 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | {4-[(E)-2-(3-{[4-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenyl]-1,3-thiazol-2-yl}methyl benzoate | 0.55 g, yield 44% | C(C1=CC=CC=C1)(=O)OCC=1SC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)CC(=O)OCC)OC | C45H40N4O8S
